US07022707B2
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-chloro-6-fluoro-4-(3-methoxy-propoxy)-benzyl) ester:
This compound was prepared from 2-chloro-6-fluoro-4-(3-methoxy-propoxy)-benzylalcohol and (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester according to the procedure described in Example 179 to give the product as a colorless oil (576 mg; 77%); MS (ISP): 506.4 (M+NH4)+.

reactant | 2-chloro-6-fluoro-4-(3-methoxy-propoxy)-benzylalcohol | ClC1=C(CO)C(=CC(=C1)OCCCOC)F | C11H14ClFO3
reactant | (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C(=O)Cl)CC | C12H21ClN2O3
product | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-chloro-6-fluoro-4-(3-methoxy-propoxy)-benzyl) ester | 576 mg, 77% | ClC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C(=CC(=C1)OCCCOC)F | C23H34ClFN2O6
